US04659708
A. 6-[(6-Methoxy-4-methyl-8-quinolinyl)amino]-1-hexanol
To a stirred mixture of 1.9 g (0.01 mole) of 6-methoxy-4-methyl-8-quinolinamine and 1.4 g (0.01 mole) of 6-chlorohexanol at 150° was added portionwise over one hr 1.4 ml (0.01 mole) of triethylamine. The mixture was stirred for 1 hr at the same temperature, and then 0.8 g (0.0056 mole) of 1-chlorohexanol was added, followed by the portionwise addition of 0.8 (0.0056 mole) of triethylamine. The mixture was stirred for 1 hr and the procedure was repeated with 0.5 g (0.0037 mole) of 1-chlorohexanol and 0.5 ml of triethylamine. After the mixture was stirred an additional hr, the mixture was allowed to cool, diluted with acetone, filtered, and concentrated to dryness in vacuo. The residue was dissolved in dichloromethane and chromatographed over 70 g of silica gel first with 500 ml of dichloromethane and then with the following solutions of ethyl acetate in dichloromethane: 5% (500 ml), 10% (1 liter), 15% (500 ml), and finally 20% (500 ml). Fractions of the 20% eluant containing the product, Rf(silica--ethyl acetate)=0.3, were combined and concentrated to dryness in vacuo. Recrystallization from 2-propanol afforded 1.6 g (55%) of the title compound, mp 97°-99°.

reactant | 6-methoxy-4-methyl-8-quinolinamine | 0.01 mole, 1.9 g | COC=1C=C2C(=CC=NC2=C(C1)N)C | C11H12N2O
reactant | 6-chlorohexanol | 0.01 mole, 1.4 g | ClCCCCCCO | C6H13ClO
reactant | triethylamine | 0.01 mole, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | 1-chlorohexanol | 0.0056 mole, 0.8 g | ClC(CCCCC)O | C6H13ClO
reactant | 1-chlorohexanol | 0.0037 mole, 0.5 g | ClC(CCCCC)O | C6H13ClO
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | 6-[(6-Methoxy-4-methyl-8-quinolinyl)amino]-1-hexanol | 1.6 g, 55% | COC=1C=C2C(=CC=NC2=C(C1)NCCCCCCO)C | C17H24N2O2
